data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(OCC)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(OCC)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(OCC)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(OCC)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(OCC)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(OCC)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1Cl", "products": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1Cl"}, {"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1Cl", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)c(Cl)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)c(Cl)c1", "products": "COc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1Cl"}]}
{"conditions": [], "steps": [{"reactants": "CCC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1NO.C=O", "products": "CCC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]"}, {"reactants": "CCC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]", "products": "CCC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO"}, {"reactants": "CCC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO", "products": "C=[N+](O)[C@@H]1C(CC)[C@H](C)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(CC)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(CC)[C@H](C)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(CC)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "CCC1[C@H](C)C[C@H]2CC3O[N@]4CC3C[C@H]2[C@@H]14"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1Cl.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1Cl.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1Cl", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CCC2Cl.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CCC2Cl", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CCC2Cl)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1c(F)cccc1F)C1C2CCC1C2", "products": "[O][C](c1c(F)cccc1F)C1C2CCC1C2"}, {"reactants": "[O][C](c1c(F)cccc1F)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1c(F)cccc1F"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1c(F)cccc1F", "products": "OC(=CC1C=CCC1)c1c(F)cccc1F"}, {"reactants": "OC(=CC1C=CCC1)c1c(F)cccc1F", "products": "O=C(CC1C=CCC1)c1c(F)cccc1F"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cccc(Cl)c1Cl)C1C2CCC1C2", "products": "[O][C](c1cccc(Cl)c1Cl)C1C2CCC1C2"}, {"reactants": "[O][C](c1cccc(Cl)c1Cl)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cccc(Cl)c1Cl"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cccc(Cl)c1Cl", "products": "OC(=CC1C=CCC1)c1cccc(Cl)c1Cl"}, {"reactants": "OC(=CC1C=CCC1)c1cccc(Cl)c1Cl", "products": "O=C(CC1C=CCC1)c1cccc(Cl)c1Cl"}]}
{"conditions": [], "steps": [{"reactants": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1Cl.C=O", "products": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1Cl"}, {"reactants": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1Cl", "products": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1Cl"}, {"reactants": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1Cl", "products": "C=[N+](O)[C@@H]1C(Cl)[C@H](COC)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(Cl)[C@H](COC)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(Cl)[C@H](COC)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(Cl)[C@H](COC)C[C@H]2CC=CC[C@H]21", "products": "COC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1Cl"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(F)C1C.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(F)C1C.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(F)C1C", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(F)C2C.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(F)C2C", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(F)C2C)C(=O)CC41c2ccccc2N(C)C31"}]}
